data/rdb19/train.csv
rxn,smiles,ea
3406,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21][c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[H:29])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],25.67223145766184
1089,[C:14]([C:15]([C:16]([C:17]([H:27])([H:28])[H:29])([N:18]([C:19](=[O:20])[H:31])[H:30])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:14]([C:15]([C:16]([C:17]([H:27])([H:28])[H:29])([N:18]([C:19](=[O:20])[H:31])[H:30])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([H:5])[H:25])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],20.3791104190168
1803,[C:15]([C:16](=[C:17]([H:24])[H:25])[C:18](=[O:19])[O:20][H:26])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:18]([C:16]([C:15]([H:21])([H:22])[H:23])=[C:17]([H:24])[H:25])([O:19])[O:20][H:26])([H:11])[H:12])([H:8])([H:9])[H:10],32.876115989056416
848,[C:19]([O:20][C:21]([C:22]([H:30])([H:31])[H:32])([C:23]([H:24])[H:25])[H:29])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:5](=[O:6])[N:7]([H:17])[H:18])([H:13])[C:23]([C:21]([O:20][C:19]([H:26])([H:27])[H:28])([C:22]([H:30])([H:31])[H:32])[H:29])([H:24])[H:25])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])[H:16],62.2146787099191
3131,[C:16]([C:17]([C:18]([H:19])[N:20]([C:21](=[O:22])[H:29])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[C:18]([C:17]([C:16]([H:23])([H:24])[H:25])([H:26])[H:27])([H:19])[N:20]([C:21](=[O:22])[H:29])[H:28].[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12],58.90430861734785
856,[C:19]([C:20]([C:21]([H:22])[O:23][C:24]([H:30])([H:31])[H:32])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])[H:12])([H:8])([H:9])[H:10].[C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])([H:13])[C:21]([C:20]([C:19]([H:25])([H:26])[H:27])([H:28])[H:29])([H:22])[O:23][C:24]([H:30])([H:31])[H:32],60.53300737956306
3338,[C:13]([O:14][C:15]([C:16]([H:24])([H:25])[H:26])([C:17]([H:18])[H:19])[H:23])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:13]([O:14][C:15]([C:16]([H:24])([H:25])[H:26])=[C:17]([H:18])[H:19])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:8])([H:9])[H:23])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7],33.31690521724522
3817,[C:13]([C:14]([C:15]([C:16]([H:26])([H:27])[H:28])([C:17]([H:18])[H:19])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:13]([C:14]([C:15]([C:16]([H:26])([H:27])[H:28])=[C:17]([H:18])[H:19])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([H:8])([H:9])[H:25])([H:5])([H:6])[H:7].[C:3](=[C:4]([H:11])[H:12])[H:10],87.19435844023246
3051,[C:16]([C:17]([C:18]([H:19])[O:20][C:21]([H:27])([H:28])[H:29])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])[H:10].[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])([H:12])[C:18]([C:17]([C:16]([H:22])([H:23])[H:24])([H:25])[H:26])([H:19])[O:20][C:21]([H:27])([H:28])[H:29],65.11109556641895
5280,[C:1]([C:2]([C:3]([H:4])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:14])[H:15])([H:11])([H:12])[H:13].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])([N:25]([C:26](=[O:27])[H:38])[H:37])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30]>>[C:1]([C:2]([C:3]([H:4])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:34])([H:14])[H:15])([H:11])([H:12])[H:13].[C:21]([C:22]([C:23]([C:24]([H:35])[H:36])([N:25]([C:26](=[O:27])[H:38])[H:37])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30],30.535903315176256
2344,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:20])([H:21])[H:22])([O:12][C:13]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1]([C:2]([H:3])([H:4])[H:20])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:21])[H:22])([O:12][C:13]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16],23.554731812590035
